US07291642B2
Analogously to 13b), 3-[(2,3-dichlorobenzenesulphonyl)methylamino]cyclopentane-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylcarboxamide was prepared from 0.185 g (0.374 mmol) of N-[2-(4-cyanophenyl)ethyl]-3-[(2,3-dichlorobenzenesulphonyl)methylamino]cyclopentane-N-methylcarboxamide, 6.0 mg (0.187 mmol) of sulphur and 1 ml of ethylenediamine.

reactant | N-[2-(4-cyanophenyl)ethyl]-3-[(2,3-dichlorobenzenesulphonyl)methylamino]cyclopentane N-methylcarboxamide | 0.374 mmol, 0.185 g | C(#N)C1=CC=C(C=C1)CCN(C1CCCC1)CS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl.CNC=O
reactant | sulphur | 0.187 mmol, 6.0 mg | [S] | S
reactant | ethylenediamine | 1 ml | C(CN)N | C2H8N2
product | 3-[(2,3-dichlorobenzenesulphonyl)methylamino]cyclopentane N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylcarboxamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNC1CCCC1.N1C(=NCC1)C1=CC=C(C=C1)CCN(C=O)C | InChI=1S/C13H17N3O.C12H15Cl2NO2S/c1-16(10-17)9-6-11-2-4-12(5-3-11)13-14-7-8-15-13;13-10-6-3-7-11(12(10)14)18(16,17)8-15-9-4-1-2-5-9/h2-5,10H,6-9H2,1H3,(H,14,15);3,6-7,9,15H,1-2,4-5,8H2
